US03959279
1-(4'-fluorobenzyl)-2-allylamino-quinazolin-4(1H)-one. ##SPC12##
A suspension of 13.5 g. of N-(4'-fluorobenzyl)isatoic anhydride, 130 g. of S-methyl-N-allylthiopseudourea hydroiodide and 75 g. of powdered sodium carbonate in 500 ml. of acetonitrile is heated with stirring at reflux for 1.5 hours. The excess sodium carbonate is filtered off and the solvent evaporated to dryness. The residue is dissolved in methylene chloride, filtered to remove insolubles and the filtrate evaporated to dryness. The residue is dissolved in 500 ml. of diglyme and the resulting solution heated at reflux for 1.5 hours. After cooling, methylene chloride is added to obtain a precipitate which is recovered by filtering, washed twice with methylene chloride and once with ether, dried, dissolved in methanol, filtered and concentrated on a steam bath to obtain a precipitate which is recovered by filtering, washed with methanol and dried under reduced pressure to obtain 1-(4'-fluorobenzyl)-2-allylamino-quinazolin-4(1H)-one, m.p. 155°-157°C. (additional quantities of the title compound are recovered from the mother liquid).

reactant | N-(4'-fluorobenzyl)isatoic anhydride | FC1=CC=C(CN2C=3C(C(=O)OC2=O)=CC=CC3)C=C1 | C15H10FNO3
reactant | S-methyl-N-allylthiopseudourea hydroiodide | I.CSC(NCC=C)=N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetonitrile | C(C)#N | C2H3N
product | 1-(4'-fluorobenzyl)-2-allylamino-quinazolin-4(1H)-one | FC1=CC=C(CN2C(=NC(C3=CC=CC=C23)=O)NCC=C)C=C1 | C18H16FN3O
